US05847153
Step 3 Preparation of 2-[(n-butylsulfonyl)methyl]-3-(n-butylsulfonyl)-propionic acid.
A mixture of 2-[(n-butylsulfonyl)methyl]-3-(n-butylsulfonyl)-propanoic acid, ethyl ester (1.0 g, 3.0 mmol) in 6N hydrochloric acid (20 mL) is refluxed overnight. The mixture is transferred to distilled water and extracted with ethyl acetate. The combined organic extracts are concentrated in vacuo to yield the title compound as a clear, colorless oil.

reactant | 2-[(n-butylsulfonyl)methyl]-3-(n-butylsulfonyl)-propanoic acid, ethyl ester | 3.0 mmol, 1.0 g | C(CCC)S(=O)(=O)CC(C(=O)OCC)CS(=O)(=O)CCCC | C14H28O6S2
solvent | hydrochloric acid | 6N, 20 mL | Cl | ClH
product | 2-[(n-butylsulfonyl)methyl]-3-(n-butylsulfonyl)-propionic acid | C(CCC)S(=O)(=O)CC(C(=O)O)CS(=O)(=O)CCCC | C12H24O6S2
